US07737166B2
2-(4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylethanethioamide (I-314)
2,4-Bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetan-2,4-disulfide (24.8 mg, 0.061 mmol) was added to a toluene (1 ml) solution of 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylacetamide (I-313) (20.0 mg, 0.056 mmol), followed by stirring in ah oil bath at 125° C. for 5 hours. The reaction liquid was concentrated, and the resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=1:1, v/v) to obtain the entitled compound (14.0 mg, 67%) as a yellow solid.

reactant | 2,4-Bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetan-2,4-disulfide | 0.061 mmol, 24.8 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylacetamide | 0.056 mmol, 20.0 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)CC(=O)N(C)C)C2=CC=CC=C2)C | C22H21N3O2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-N,N-dimethylethanethioamide | 14.0 mg, 67% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)CC(N(C)C)=S)C2=CC=CC=C2)C | C22H21N3OS
